US04614742
Synthesis of 4-Anilino-2,4,6-trifluoroisophthalonitrile (i.e., Compound No. 6)
A solution of 0.85 g of aniline in 20 ml of acetonitrile was dropwise added, while stirring, to a solution of 2.0 g of tetrafluoroisophthalonitrile and 2.0 g of triethylamine in 30 ml of acetonitrile. After dropwise adding, the mixture was stirred at room temperature for 1 hour and an aqueous sodium bicarbonate solution was then added. The mixture was extracted with chloroform and the chloroform extract was washed 5 times with an aqueous sodium chloride solution. After drying with magnesium sulfate, the chloroform was distilled off. The resultant crude crystal was purified by silica gel chromatography (solvent:hexane). Thus, 2.3 g (87% yield) of the desired compound No. 6 was obtained.

reactant | aniline | 0.85 g | NC1=CC=CC=C1 | C6H7N
reactant | tetrafluoroisophthalonitrile | 2.0 g | FC1=C(C(=C(C(=C1C#N)F)C#N)F)F | C8F4N2
reactant | triethylamine | 2.0 g | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 4-Anilino-2,4,6-trifluoroisophthalonitrile | 2.3 g, 87% yield | N(C1=CC=CC=C1)C1(C(C(=C(C#N)C(=C1)F)F)C#N)F | C14H8F3N3
